US04444766
3-Bromo-2-methoxy-2-methylpropan-1-ol is reacted with the sodium salt of octadecanethiol in ethanol. The 2-methylene-3-octadecylthiopropan-1-ol (wax-like substance) is thereby obtained with the splitting off of methanol.

reactant | 3-Bromo-2-methoxy-2-methylpropan-1-ol | BrCC(CO)(C)OC | C5H11BrO2
reactant | sodium | [Na] | Na
reactant | octadecanethiol | C(CCCCCCCCCCCCCCCCC)S | C18H38S
reactant | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | 2-methylene-3-octadecylthiopropan-1-ol | C=C(CO)CSCCCCCCCCCCCCCCCCCC | C22H44OS
